US07176242B2
3-[(Dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid
Methyl 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoate (4.4 g, 12.8 mmol) is dissolved in 1:1:1 tetrahydrofuran/methanol/water (60 mL), and lithium hydroxide monohydrate is added (1.1 g, 25.6 mmol). The reaction is stirred 15 min and is concentrated under reduced pressure. The residue is diluted in chloroform and washed with water, brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to give the title compound. ESI MS m/z 333.1 [M+H]+.

reactant | Methyl 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoate | 12.8 mmol, 4.4 g | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1SC=CN1)CCC | C18H22N2O3S
solvent | tetrahydrofuran methanol water | 60 mL | O1CCCC1.CO.O
solvent | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | 3-[(Dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1SC=CN1)CCC | C17H20N2O3S
